US05187156
To an ice cooled solution of Boc-D-Trp(Tos)-OBzl (3.23 g) in ethanol (40 ml) was added 1N sodium hydroxide solution (6 ml) at room temperature. The solution was stirred for two hours, during this period two 2 ml portions of 1N sodium hydroxide solution were added. After evaporation of ethanol, and addition of water (50 ml), the solution was extracted once with ether. The aqueous layer was acidified with 1N hydrochloric acid and the resulting oily material was extracted with ethyl acetate, and the extract was washed with sodium chloride, and dried over magnesium sulfate. Evaporation gave Boc-D-Trp(Tos)-OH (2.5 g) as an amorphous solid.

reactant | Boc-D-Trp(Tos)-OBzl | 3.23 g | N([C@H](CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C30H32N2O6S
reactant | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Boc-D-Trp(Tos)-OH | 2.5 g | N([C@H](CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)O)C(=O)OC(C)(C)C | C23H26N2O6S
